US08377922B2
Undecyl(4S)-3-oxo-8-[2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate hydrochloride
704 mg (1.24 mmol) of (4S)-3-oxo-8-[2-(8-tert-butoxycarbonyl-5,6,7,8-tetra-hydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetic acid obtained in Example 5-(a) and 1.30 mL (6.26 mmol) of 1-undecyl alcohol were mixed, 12.4 mL (49.6 mmol) of 4N hydrogen chloride/1,4-dioxane solution was added to the mixture, and the resulting mixture was stirred under nitrogen gas atmosphere at 45° C. for 4 hours.

reactant | (4S)-3-oxo-8-[2-(8-tert-butoxycarbonyl-5,6,7,8-tetra-hydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetic acid | 1.24 mmol, 704 mg | O=C1N(CC2=C(C[C@H]1CC(=O)O)C=CC(=C2)OCCC=2N=C1N(CCCN1C(=O)OC(C)(C)C)C2)CC(F)(F)F | C27H33F3N4O6
reactant | 1-undecyl alcohol | 6.26 mmol, 1.30 mL | C(CCCCCCCCCC)O | C11H24O
reactant | hydrogen chloride 1,4-dioxane | 49.6 mmol, 4N, 12.4 mL | Cl.O1CCOCC1
product | Undecyl(4S)-3-oxo-8-[2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate hydrochloride | Cl.O=C1N(CC2=C(C[C@H]1CC(=O)OCCCCCCCCCCC)C=CC(=C2)OCCC=2N=C1N(CCCN1)C2)CC(F)(F)F | InChI=1S/C33H47F3N4O4.ClH/c1-2-3-4-5-6-7-8-9-10-17-44-30(41)21-26-19-25-12-13-29(20-27(25)22-40(31(26)42)24-33(34,35)36)43-18-14-28-23-39-16-11-15-37-32(39)38-28;/h12-13,20,23,26H,2-11,14-19,21-22,24H2,1H3,(H,37,38);1H/t26-;/m0./s1
